//input.scs
global 0

parameters c1=11081.92p c2=14444.20p c3=11081.92p l1=6062.87n l2=6062.87n

save I O A B
V0 (I 0) vsource type=dc mag=1 dc=1
C1 (I 0) capacitor c=c1
R1 (I 0) resistor r=50
C2 (A 0) capacitor c=c2
R2 (A 0) resistor r=50
C3 (O 0) capacitor c=c2
R3 (B 0) resistor r=50
L1 (A B) inductor l=l1
L2 (B O) inductor l=l2
RL (O 0) resistor r=50
RX (I O) resistor r=50

pz (O 0) pz iprobe=V0